US08461158B2
A solution of tert-butyl 4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-3,6-dihydro-1(2H)-pyridinecarboxylate (1.79 g, 3.29 mmol) in a mixture of MeOH (80 mL) and THF (80 mL) was hydrogenated over 10% Pd on carbon (100 mg). After removal of the hydrogen, the mixture was refluxed in air for additional 2 hrs. The catalyst Pd/C was removed by filtration through celite, and the solvents were removed under vacuum. Recrystallization of the residue from methanol gave tert-butyl 4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperidine-carboxylate: mp (MeOH) 177-179° C.; 1H NMR (CDCl3) δ 8.01 (dd, J=8.4, 0.7 Hz, 1H), 7.58 (t, JHF=53.6 Hz, 1H), 7.38 (t, J=8.2 Hz, 1H), 6.84 (d, J=7.8 Hz, 1H), 4.22 (m, 2H), 4.05 (s, 3H), 3.99 (m, 2H), 3.94 (m, 2H), 3.81 (m, 4H), 2.94-2.78 (m, 3H), 2.05 (dd, J=13.0, 1.9 Hz, 2H), 1.81 (qd, J=12.7, 4.4 Hz, 2H), 1.49 (s, 9H); Anal. Calcd. for C26H33F2N7O4: C, 57.2; H, 6.1; N, 18.0. Found: C, 57.4; H, 6.15; N, 18.1%.

reactant | tert-butyl 4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-3,6-dihydro-1(2H)-pyridinecarboxylate | 3.29 mmol, 1.79 g | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)C=1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2OC)F | C26H31F2N7O4
solvent | MeOH | 80 mL | CO | CH4O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | Pd on carbon | 100 mg | [Pd] | Pd
product | tert-butyl 4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperidine-carboxylate | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)C1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2OC)F | C26H33F2N7O4
